US09029402B2
To a mixture of ethyl 3-(4-cyano-2-methylphenyl)-2-(4-methoxyphenyl)-3-oxopropanoate (A-6) (40 g, 0.1186 mol) in dimethyl sulfoxide (75 mL) was added catalytic amount of brine (2.5 mL), and the reaction mixture was heated at 150° C. for 2.5 h. When TLC showed the starting material was consumed, the reaction mixture was cooled down to room temperature, and partitioned between water (150 mL) and ethyl acetate (150 mL). The aqueous layer was extracted with ethyl acetate (100 mL×2). The combined organic layer was washed with brine (200 mL), dried over anhydrous sodium sulfate (15 g), evaporated, and purified by chromatography on silica gel (petroleum ether/ethyl acetate=25:1) to give 4-(2-(4-methoxyphenyl)acetyl)-3-methylbenzonitrile (A-7) (19 g, yield 60.4%).

reactant | ethyl 3-(4-cyano-2-methylphenyl)-2-(4-methoxyphenyl)-3-oxopropanoate | 0.1186 mol, 40 g | C(#N)C1=CC(=C(C=C1)C(C(C(=O)OCC)C1=CC=C(C=C1)OC)=O)C | C20H19NO4
solvent | dimethyl sulfoxide | 75 mL | CS(=O)C | C2H6OS
solvent | brine | 2.5 mL | [Cl-].[Na+].O
product | 4-(2-(4-methoxyphenyl)acetyl)-3-methylbenzonitrile | 19 g, yield 60.4% | COC1=CC=C(C=C1)CC(=O)C1=C(C=C(C#N)C=C1)C | C17H15NO2
